US04127720
A stirred mixture of ethyl 6,7-dihydro-9-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (510 mgs.) in p-cymene (25 ml.) containing 10% palladium on carbon (150 mgs.) was refluxed for 7 hours. The mixture was flash evaporated to dryness and the residue extracted with boiling ethanol. The combined extracts were filtered and concentrated by boiling to give flocculent colorless needles of ethyl 9-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate: 420 mgs. (81% yield), m.p. 211.5°-212°. An additional recrystallization from ethanol raised the m.p. to 217°-218°.

reactant | ethyl 6,7-dihydro-9-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 510 mgs | COC=1C=C2CCN3C(C2=CC1)=NC=C(C3=O)C(=O)OCC | C16H16N2O4
solvent | p-cymene | 25 ml | CC=1C=CC(=CC1)C(C)C | C10H14
catalyst | palladium on carbon | 150 mgs | [Pd] | Pd
product | ethyl 9-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 81% yield | COC=1C=C2C=CN3C(C2=CC1)=NC=C(C3=O)C(=O)OCC | C16H14N2O4
